US06743794B2
Dimethylamino-pyridin-3-yl-acetic Acid Ethyl Ester
Bromopyridin-3-yl-acetic acid ethyl ester (2.54 g; 10.2 mmol) was reacted in a sealed tube, at rt., in CH2Cl2, overnight with N,N-dimethylamine hydrochloride (3.34 g; 41.0 mmol; 4 equiv) and Et3N (5.8 mL; 41.0 mmol; 4 equiv). The reaction solution was evaporated to dryness, dissolved in CH2Cl2, washed five times with saturated NaHCO3 (aq), washed once with saturated NaCl (aq), dried with Na2SO4, filtered, and concentrated in vacuo. The resulting brown oil was purified with silica gel chromatography in a 3×25 cm glass column using a 0.5% methanol/chloroform (v/v) mobile phase. The desired product was isolated as a yellow oil (1.12 g; 53% yield). MS(ES) calc'd: [M+H]+=208.1 m/z. Found: 208.1 m/z.

reactant | Bromopyridin-3-yl-acetic acid ethyl ester | 10.2 mmol, 2.54 g | C(C)OC(C(C=1C=NC=CC1)Br)=O | C9H10BrNO2
reactant | N,N-dimethylamine hydrochloride | 41.0 mmol, 3.34 g, 4 equiv | Cl.CNC
reactant | Et3N | 41.0 mmol, 5.8 mL, 4 equiv | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Dimethylamino-pyridin-3-yl-acetic Acid Ethyl Ester | 53% yield | C(C)OC(C(C=1C=NC=CC1)N(C)C)=O | C11H16N2O2
